US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(3-methylbutyl)thiourea
Potassium tert-butoxide (0.49 g, 4.4 mmol) was added to a solution of 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride (0.5 g, 2.0 mmol) in dry N,N-dimethylformamide (5 ml) with stirring on an ice bath. After 10 min, 3-methylbutyl isothiocyanate (0.31 g, 2.4 mmol) was added dropwise to the resulting suspension, and the mixture was stirred for 3.5 h at 0 to 20° C. Most of the solvent was evaporated at 40° C., and the residue was taken up in 25 ml of water, treated with decolourising charcoal, and filtered. Acidification of the filtrate with acetic acid to pH 3-4 and filtration afforded 0.21 g (29%) of the title compound; mp 114-115° C. decomp., 1H-NMR (DMSO-d6): δ0.85 (d, 6H, 2×CH3), 1.40 (q, 2H, CH2), 1.50 (m, 1H, CH), 3.45 (q, 2H, CH2), 6.45 (br, 2H, NH2), 6.65 (s, 1H, H4), 8.30 (br t, 1H, NH), 11.3 (br s, 1H).

reactant | Potassium tert-butoxide | 4.4 mmol, 0.49 g | CC(C)([O-])C.[K+]
reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | 2.0 mmol, 0.5 g | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | 3-methylbutyl isothiocyanate | 2.4 mmol, 0.31 g | CC(CCN=C=S)C | C6H11NS
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(3-methylbutyl)thiourea | 0.21 g, 29% | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NCCC(C)C | C10H16ClN3O2S3
